US04880571
5-Nitro-1,4-naphthoquinone, referred to hereinafter for short as 5-nitronaphthoquinone, is an important dyestuff intermediate which is reacted with butadiene by a Diels-Alder reaction to 5-nitro1, 1,4,11,12-tetrahydroanthraquinone (q.v. for example N.N. Vorozhtsov et al., Zhur. Vsesoyuz. Khim. Obshchestva in D.I. Mendeleeva 5, 474 (1960) - Chem. Abstract, Vol. 55, 1547e), which is subsequently rearranged to give 1-hydroxyaminoanthraquinone or converted direct to 1-aminoanthraquinone, the starting material for numerous disperse and vat dyes (e.g. German Offenlegungsschrift 24 50 883).

reactant | 5-Nitro-1,4-naphthoquinone | [N+](=O)([O-])C1=C2C(C=CC(C2=CC=C1)=O)=O | C10H5NO4
reactant | butadiene | C=CC=C | C4H6
product | 1-hydroxyaminoanthraquinone | ONC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H9NO3
